US07736624B2
an Indo-Coumarinyl Analog: Compound 27gg, N-[3-{7-(N,N-Diethylamino)coumarin-3-carboxylamido}butyl]-2-{1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl}acetamide was synthesized by the method depicted in FIG. 8. Briefly, indomethacin was complexed with tert-Butyl-3-aminopropylcarbamate for 16 hours at room temperature in the presence of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDCl), 1-hydroxybenzotriazole (HOBt), N,N-diisopropylethylamine (DIPEA), and N,N-dimethylformamide (DMF). tert-Butyl 3-[2-{1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl}acetamido]propylcarbamate was produced as a pale yellow solid at 70% yield. This product was then dissolved in dichloromethane and treated with HCl (gas) for 2 hours at room temperature, producing N-(4-qminobutyl)-2-{1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl}acetamide hydrochloride as a brown solid with a yield of 98%, which was reacted with triethylamine (TEA) in dimethyl sulfoxide (DMSO) for 5 minutes at room temperature prior to the addition of 7-(N,N-Diethylamino)coumarin-3-carboxylic acid succinimidyl ester. The reaction proceeded for 16 hours at room temperature and produced Compound 27gg as a yellow solid (66% yield).

reactant | indomethacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | tert-Butyl-3-aminopropylcarbamate | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | tert-Butyl 3-[2-{1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl}acetamido]propylcarbamate | 70% yield | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)NCCCNC(OC(C)(C)C)=O)C)C=C1 | C27H32ClN3O5
